US04558155
N-[-2-(3,5-Dichlorophenoxy)ethyl]butanamine Hydrochloride
A solution of 33.76 g (0.126 mole) of 2-(3,5-dichlorophenoxy)-1-bromoethane in 200 ml of n-butylamine was stirred at 25° C. for 20 hr. The excess n-butylamine was evaporated in vacuo, and the residue was suspended in a mixture of dilute sodium hydroxide and shaken with methylene chloride. The methylene chloride layer was extracted in sequence with two additional portions of dilute sodium hydroxide, one of dilute sulfuric acid and once more with dilute sodium hydroxide. The volume of the methylene chloride layer was reduced to about 150 ml and excess ethereal hydrogen chloride was added. Addition of anhydrous ether gave a white precipitate which was collected and dried under high vacuum (78° C.) to give 19.35 g (51.5%) white crystals, m.p. 195°-196° C.

reactant | 2-(3,5-dichlorophenoxy)-1-bromoethane | 0.126 mole, 33.76 g | ClC=1C=C(OCCBr)C=C(C1)Cl | C8H7BrCl2O
reactant | n-butylamine | 200 ml | C(CCC)N | C4H11N
product | N-[-2-(3,5-Dichlorophenoxy)ethyl]butanamine Hydrochloride | 19.35 g, 51.5% | Cl.ClC=1C=C(OCCNCCCC)C=C(C1)Cl | InChI=1S/C12H17Cl2NO.ClH/c1-2-3-4-15-5-6-16-12-8-10(13)7-11(14)9-12;/h7-9,15H,2-6H2,1H3;1H
